US07645771B2
Preparation of 4-(aminosulfonyl)-2-fluorobenzoic acid
To a stirred solution of 3-fluoro-4-methyl-benzenesulfonamide (prepared above) in 50 mL of water was added sodium carbonate (0.53 g, 5 mmol) and potassium permanganate (3.16 g, 20 mmol) portionwise over three hours at 50˜60° C. The resulting mixture was stirred for further 8 hours at this temperature before 0.2 mL of formic acid was added to quench the excess of potassium permanganate. The mixture was then filtered through celite while it was still hot and further washed with the hot water. The filtrate was concentrated to ˜30 mL and adjusted to pH 9˜10. The filtration was applied again to remove non-oxidized starting material. The final filtrate was acidified with HCl (conc.) to ˜pH 1 and 4-(aminosulfonyl)-2-fluorobenzoic acid was precipitated and collected by filtration as white solid (1.10 g, 50%).

reactant | 3-fluoro-4-methyl-benzenesulfonamide | FC=1C=C(C=CC1C)S(=O)(=O)N | C7H8FNO2S
reactant | sodium carbonate | 5 mmol, 0.53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium permanganate | 20 mmol, 3.16 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | formic acid | 0.2 mL | C(=O)O | CH2O2
solvent | water | 50 mL | O | H2O
product | 4-(aminosulfonyl)-2-fluorobenzoic acid | NS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)F | C7H6FNO4S
